US04372962
(a) 2-(2',2'-Diethoxyethylthio)acetamide
Sodium (0.878 g) was dissolved in absolute ethanol (150 ml) under an inert atmosphere. Thioglycolamide (3.47 g) (prepared as described by Sokol and Ritter, J.A.C.S. 70 3517 (1948)) was added and, when practically all the amide had dissolved, bromoacetaldehyde diethyl acetal (11.5 ml) was added. The mixture was heated at 60°-65° C. for 7 hours, cooled and filtered, and the filtrate evaporated under reduced pressure. The residue was dissolved in ethyl acetate (100 ml) and brine (50 ml), the layers separated and the brine extracted with ethyl acetate (50 ml). The combined ethyl acetate extracts were dried over Na2SO4 and evaporated under reduced pressure to yield an oil. Chromatography on silica (50 g), eluting with ethyl acetate/petrol, provided the title compound (6 g) as an oil. νmax (CHCl3) 3500, 3400 and 1690 cm-1 ; δ(CDCl3) 1.20 (6H, t, J 7 Hz, --CH2CH3 ), 2.80 (2H, d, J 5 Hz, >CHCH2S--), 3.25 (2H, s, --SCH2CO--), 3.58 (4H, 2q J 7 Hz, --OCH2CH3), 4.62 (1H, t, J 5 Hz, --CHCH2S--), 7.00 (2H, s, --CONH2); Found 207.0951 (M+) C8H17NO3S requires 207.0929.

reactant | Sodium | 0.878 g | [Na] | Na
reactant | Thioglycolamide | 3.47 g | C(CS)(=O)N | C2H5NOS
reactant | bromoacetaldehyde diethyl acetal | 11.5 ml | C(C)OC(CBr)OCC | C6H13BrO2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-(2',2'-Diethoxyethylthio)acetamide | 6 g | C(C)OC(CSCC(=O)N)OCC | C8H17NO3S
